US05668162
[S-(R*,R*)]-2-[2-[2-(1-Carboxy-3-methylbutylcarbamoyl)-5-methoxy-phenyldisulfanyl]-4-methoxybenzoylamino]-4-methyl-pentanoic acid (general method)
A solution of [S-(R*,R*)-2[2-[2-(1-tert-butoxy-carbonyl-3-methylbutylcarbamoyl)-5-methoxy-phenyldisulfanyl]-4-methoxybenzoylamino]-4-methyl-pentanoic acid tert-butyl ester (1.2 g, 1.7 mmol) and anisole (1 mL) in 10 mL dichloromethane, cooled to about 0° C., was treated dropwise with 10 mL of trifluoroacetic acid. The mixture was allowed to warm to ambient temperature. After 4 hours, 5 mL toluene was added, and the solvents were removed in vacuo. The crude product was recrystallized from methanol/water to yield 0.7 g of the title compound.

reactant | 2[2-[2-(1-tert-butoxy-carbonyl-3-methylbutylcarbamoyl)-5-methoxy-phenyldisulfanyl]-4-methoxybenzoylamino]-4-methyl-pentanoic acid tert-butyl ester | 1.7 mmol, 1.2 g | C(C)(C)(C)OC(C(CC(C)C)NC(C1=C(C=C(C=C1)OC)SSC1=C(C=CC(=C1)OC)C(NC(C(C(C)C)=C=O)OC(C)(C)C)=O)=O)=O | C36H50N2O8S2
reactant | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[2-[2-(1-Carboxy-3-methylbutylcarbamoyl)-5-methoxy-phenyldisulfanyl]-4-methoxybenzoylamino]-4-methyl-pentanoic acid | 0.7 g | C(=O)(O)C(CC(C)C)NC(=O)C1=C(C=C(C=C1)OC)SSC1=C(C(=O)NC(C(=O)O)CC(C)C)C=CC(=C1)OC | C28H36N2O8S2
